### PR TITLE
Updates and improvements

### PR DESCRIPTION
**Pull request by spacefrogg**
This PR brings:
- Code updates to support Coq 8.18 and OCaml 8.14
- Tool chain rewrite to use Dune 3 instead of Make
- Nix flake for stable development environment + GitHub CI runner
- New testing utilities to aid development projects that use Koika
- Decoupling some output features from cuttlec (C++ code formatting) for better separation of concern
- Documentation updates / improvements (e.g. contribution guide, machine-readable citation data)

### CODE REVIEW

**Comment by maxkurze1** [comment]
I am moving the discussion from our emails to this PR as it seems more appropriate here. @cpitclaudel

Clément:
> I haven't found the way in the new world to run individual examples.  When I try dune build @examples/collatz.v.d/runtest for example, it completes quickly but it does not print anything, and the Makefile that was previously generated to call cuttlesim, verilator, etc doesn't appear anymore.

Could you please give some additional information on the problem with the build system? Unfortunately, I am not able to reproduce your issue, for me, it worked as expected and the Makefile is also generated correctly.

What I did in detail:

```
# I checked out the PR
$ git clone https://github.com/Barkhausen-Institut/koika/
> Cloning into 'koika'...
> remote: Enumerating objects: 8758, done.
> remote: Counting objects: 100% (964/964), done.
> remote: Compressing objects: 100% (119/119), done.
> remote: Total 8758 (delta 873), reused 845 (delta 845), pack-reused 7794 (from 1)
> Receiving objects: 100% (8758/8758), 4.03 MiB | 21.72 MiB/s, done.
> Resolving deltas: 100% (6605/6605), done.

$ cd koika

$ git checkout upstream-pr
> branch 'upstream-pr' set up to track 'origin/upstream-pr'.
> Switched to a new branch 'upstream-pr'

# I entered the nix environment containing dune and coq
$ nix develop

# I executed your command to invoke the 'runtest'-rule
$ dune build @examples/collatz.v.d/runtest

# No output is produced here
# I am not sure what output you are expecting - at least the coq-file does
# not contain any prints or computes

$ ls _build/default/examples/collatz.v.d/
> collatz.cmi  collatz_extr.glob  collatz_extr.vos  collatz.mli            cuttlesim.hpp
> collatz.cmx  collatz_extr.v     collatz.hpp       collatz.o              Makefile
> collatz.cpp  collatz_extr.vo    collatz.kpkg      collatz.v              verilator.hpp
> collatz.dot  collatz_extr.vok   collatz.ml        collatz.verilator.cpp
# all files are generated as expected (including the makefile)
```

**Comment by spacefrogg** [comment]
It is true that the interface between `dune` and the generated `Makefile` is not there, yet. The issue is, that dune is very restrictive in how new build targets can be generated. For my taste, `cuttlec` does too many things at once and `Makefile` generation is likely out of its scope and should be moved to some other tool. I haven't looked into the necessary interface, yet, i.e. what information the Makefile-generator would need and how this information depends on the actual Koika circuit. This is, why the code is in its current state.

File: CITATION.cff [hunk 1]
```diff
@@ -0,0 +1,49 @@
+# This CITATION.cff file was generated with cffinit.
```
Comment (cpitclaudel) [inline CITATION.cff:1]: I don't think we need this file (especially because the authors are wrong and it duplicates the license information)

File: CONTRIBUTING.md [hunk 2]
```diff
@@ -0,0 +1,31 @@
...
+## Before submitting a pull request
+
+Run the tests to check if your changes broke anything.
+You will do everyone the biggest favour if you run the continuous integration runner to build and test Kôika.
+This assumes that you have the [Nix](https://nixos.org/download) Package Manager installed with the support for flakes enabled.
+Suppose Nix is set up correctly, you just run:
+
+```sh
+nix run .#makes -- . /build
+```
```
Comment (cpitclaudel) [inline CONTRIBUTING.md:17]: It makes sense to use Nix on the CI, but I think it's a big requirement to ask people to do this locally: they have OPAM and dune and Rocq (since they are writing Rocq proofs), but most of them don't have Nix.  Can we ask people to run just the one dune command that Nix runs?

File: CONTRIBUTING.md [hunk 3]
```diff
@@ -0,0 +1,31 @@
...
+
+## Locally reproduce a CI run
+
+Suppose you want to produce a CI run locally, maybe because it has failed on GitHub or because you want to run it on a different commit of a pull request that consist of multiple commits.
+You can adapt the previously shown call to `makes` to do that; replace `<rev>` with the commit hash of interest:
```
Comment (cpitclaudel) [inline CONTRIBUTING.md:22]: I think it's completely OK to mention Nix here if it's used on CI.

File: Makefile [hunk 4]
```diff
@@ -60,69 +60,61 @@ ocaml:
...
-	find tests/ -type d  \( -name _objects -or -name _build \) -exec rm -rf {} +
-	rm -rf ${BUILD_DIR}/tests
+	find tests/ -type d  \( -name '*.d' \) -exec rm -rf {} +
+	rm -rf $(BUILD_DIR)/tests
+
+# HACK: Part One of a two-part hack. When using nix, dune does not provide the
+# OCaml libs of Coq to its targets. Thus, link the libs to a well-known location
+# and add specific "-nI" include flags in e.g. examples/rv/dune.
+coq.kernel:
+	@./coq.kernel.hack.sh
```
Comment (cpitclaudel) [inline Makefile:117]: If this is Nix-specific, perhaps we don't need to have it in the top-level makefile?

File: Makefile [hunk 5]
```diff
@@ -60,69 +60,61 @@ ocaml:
...
 # https://www.gnu.org/software/make/manual/html_node/Eval-Function.html
-
-target_directory = $(dir $(1))_objects/$(notdir $(1))
+#
+# This code is not very useful anymore, because everything, including selecting
+# which examples/tests are to be built, is done in examples/dune and tests/dune,
+# now.  The code is left here, because the dune code does not support .etc
+# supplements, yet, and to give make the right™ targets for examples/tests.
+# This means that the assignments to TESTS and EXAMPLES must be kept in sync
+# with their respective dune files!
```
Comment (cpitclaudel) [inline Makefile:69]: Can we make sure that the CI does run these examples and tests in addition to compiling them?  Perhaps this requires moving the last bit of this makefile to dune or calling this makefile from nix?

File: Makefile [hunk 6]
```diff
@@ -60,69 +60,61 @@ ocaml:
...
-tests: $(call target_directories,$(TESTS));
 clean-tests:
-	find tests/ -type d  \( -name _objects -or -name _build \) -exec rm -rf {} +
-	rm -rf ${BUILD_DIR}/tests
+	find tests/ -type d  \( -name '*.d' \) -exec rm -rf {} +
+	rm -rf $(BUILD_DIR)/tests
+
+# HACK: Part One of a two-part hack. When using nix, dune does not provide the
+# OCaml libs of Coq to its targets. Thus, link the libs to a well-known location
+# and add specific "-nI" include flags in e.g. examples/rv/dune.
```
Comment (cpitclaudel) [inline Makefile:115]: Shouldn't this be a bug report to the dune maintainers?

File: coq/Show.v [hunk 7]
```diff
@@ -1,20 +1,21 @@
...
 
 Module Show_nat.
   Lemma digit_lt_base m {n} : not (m + n < m).
   Proof.
-    red; intros; eapply Le.le_Sn_n; eauto using Le.le_trans, Plus.le_plus_l.
+    red; intros; eapply Nat.nle_succ_diag_l; eauto using Nat.le_trans, Nat.le_add_r.
   Qed.
 
-  Definition string_of_base10_digit (n: {n | n < 10}) :=
+  Definition string_of_base10_digit (n: {i : nat | i < 10}) :=
```
Comment (cpitclaudel) [inline coq/Show.v:14]: ?

File: coq/Testing.v [hunk 8]
```diff
@@ -0,0 +1,181 @@
+Require Import Koika.Frontend.
+Require Import Coq.Program.Equality.
```
Comment (cpitclaudel) [inline coq/Testing.v:2]: We should have a tutorial demoing this in examples; perhaps it's best to delay that.

Comment (cpitclaudel) [reply coq/Testing.v:2]: Or perhaps we should improve the existing tutorials and publicize them better
(I can push them online and link to them from the readme)

File: coq/Types.v [hunk 9]
```diff
@@ -266,8 +266,8 @@ Definition Sig_of_CSig {n} (sig: CSig n) : Sig n :=
   {| argSigs := vect_map bits_t sig.(argSigs);
      retSig := bits_t sig.(retSig) |}.
 
-Notation arg1Sig fsig := (vect_hd fsig.(argSigs)).
-Notation arg2Sig fsig := (vect_hd (vect_tl fsig.(argSigs))).
+Notation arg1Sig fsig := (vect_hd (argSigs fsig)).
+Notation arg2Sig fsig := (vect_hd (vect_tl (argSigs fsig))).
```
Comment (cpitclaudel) [inline coq/Types.v:270]: ?

File: coq/Vect.v [hunk 10]
```diff
@@ -188,9 +188,11 @@ Fixpoint vect_app {T} {sz1 sz2} (v1: vect T sz1) (v2: vect T sz2) {struct sz1} :
...
   end v1.
 
-Fixpoint vect_app_nil_cast n:
-  n = n + 0.
-Proof. destruct n; cbn; auto. Defined.
+Fixpoint vect_app_nil_cast (n : nat) : n = n + 0 :=
+  match n as n0 return (n0 = n0 + 0) with
+  | 0 => eq_refl
+  | S n0 => (fun n1 : nat => f_equal_nat nat S n1 (n1 + 0) (vect_app_nil_cast n1)) n0
+  end.
```
Comment (cpitclaudel) [inline coq/Vect.v:196]: Is this change needed?

File: coq/Vect.v [hunk 11]
```diff
@@ -417,9 +419,15 @@ Definition vect_cycle_l {T sz} n (v: vect T sz) :=
...
+(* Fixpoint vect_skipn_cast n:
   n = n - 0.
-Proof. destruct n; cbn; auto. Defined.
+Proof. destruct n; cbn; auto. Defined. *)
+
+Definition vect_skipn_cast (n : nat) : n = n - 0 :=
+  match n as n0 return (n0 = n0 - 0) with
+  | 0 => eq_refl
+  | S n0 => (fun n1 : nat => eq_refl) n0
+  end.
```
Comment (cpitclaudel) [inline coq/Vect.v:430]: Same here

File: dune [hunk 12]
```diff
@@ -3,3 +3,16 @@
...
+;; Run etc/readme/update.py to update the source file list in README.rst
+(rule
+ (mode promote)
+ (target README.html)
+ (deps
+  (:src README.rst)
+  etc/readme/pipeline.svg
+  etc/logo/cover.jpg)
+ (action
+  (run rst2html5 --stylesheet=%{dep:etc/readme/docutils_basic.css},%{dep:etc/readme/extra.css} --image-loading=embed %{src} %{target})))
```
Comment (cpitclaudel) [inline dune:18]: Perhaps we can get rid of readme.html, since users will see it on github anyway and we're not deploying it anywhere?

File: etc/configure [hunk 13]
```diff
@@ -1,78 +0,0 @@
...
-    by_directory = {}
-    for fpath in files:
-        dirpath, fname = path.split(fpath)
-        by_directory.setdefault(dirpath, []).append(fname)
-
-    for dirpath, fnames in by_directory.items():
-        gen_dune(templates, dirpath, fnames)
-
-if __name__ == '__main__':
-    gen_objdirs(sys.argv[1:])
```
Comment (cpitclaudel) [inline etc/configure:78]: :star_struck:

File: etc/readme/docutils_basic.css
Comment (cpitclaudel) [inline etc/readme/docutils_basic.css:1]: Perhaps we can skip this entirely

File: etc/readme/pipeline.drawio
Comment (cpitclaudel) [inline etc/readme/pipeline.drawio:1]: Do we need this change?

File: etc/readme/pipeline.svg
Comment (cpitclaudel) [inline etc/readme/pipeline.svg:1]: Same here

File: examples/collatz.v
Comment (cpitclaudel) [inline examples/collatz.v:1]: This should be called _tutorial as well and linked from the readme

File: examples/collatz.v [hunk 14]
```diff
@@ -118,5 +118,83 @@ Module Collatz.
        ip_verilog := {| vp_ext_fn_specs := empty_ext_fn_props |} |}.
 End Collatz.
 
+Require Import Koika.Testing.
```
Comment (cpitclaudel) [inline examples/collatz.v:121]: Need to decide what to do with this

File: examples/dune [hunk 15]
```diff
@@ -1,202 +1,16 @@
...
- (coq.extraction
-  (prelude vector_extr)
-  (extracted_modules vector)
-  (theories Koika examples)
-  (flags "-w" "-overriding-logical-loadpath")))
+(rule
+ (mode promote)
+ (alias genrules)
+ (deps (glob_files *.v) (glob_files *.lv))
+ (action (with-stdout-to dune.inc (run ../ruleGen.exe examples %{deps}))))
```
Comment (cpitclaudel) [inline examples/dune:16]: :magic_wand:

File: examples/dune.inc [hunk 16]
```diff
@@ -0,0 +1,333 @@
+(subdir collatz.lv.d
```
Comment (cpitclaudel) [inline examples/dune.inc:1]: Do we need to check these in?

File: examples/rv/dune.inc [hunk 17]
```diff
@@ -0,0 +1,38 @@
+(subdir rv32e.v.d
```
Comment (cpitclaudel) [inline examples/rv/dune.inc:1]: Same here

File: ignored_paths.nix [hunk 18]
```diff
@@ -0,0 +1,9 @@
+[
```
Comment (cpitclaudel) [inline ignored_paths.nix:1]: Can we move most of these to one folder?

File: ocaml/backends/cpp.ml [hunk 19]
```diff
@@ -1642,11 +1642,6 @@ let input_of_sim_package
                    | None -> None
                    | Some s -> Some (Util.string_of_coq_string s)); }
 
-let clang_format fname =
-  let style = "-style={BasedOnStyle: llvm, ColumnLimit: 100}" in
-  try Common.command "clang-format" ["-i"; style; fname]
-  with CompilationError _ -> ()
```
Comment (cpitclaudel) [inline ocaml/backends/cpp.ml:1648]: Must we remove this?  It makes the generated cpp quite a bit nicer to look at.

**Review by cpitclaudel — COMMENTED** [review]
This is amazing. Thanks a lot!!
The one thing I'd like us to make sure of is that we can still run the examples and tests (not just compile them).

File: ocaml/backends/cpp.ml (hunk 19 above)
Comment (spacefrogg) [reply ocaml/backends/cpp.ml:1648]: We do not have to, but I would strongly argue in favour of it. The dependency on `clang-format` should be optional, especially with regards to the size of a full LLVM installation that it pulls in as a dependency. It is easy enough to extend the dune rule to run `clang-format` if it is available. It should really not be part of `cuttlec`, because it is non of its concern.

File: ignored_paths.nix (hunk 18 above)
Comment (spacefrogg) [reply ignored_paths.nix:1]: You mean put all `.nix` files into a separate directory? That is possible.

File: examples/dune.inc (hunk 16 above)
Comment (spacefrogg) [reply examples/dune.inc:1]: Check in `dune.inc` files? Yes, dune fails when the are missing. They must at least be existing but empty.

File: CONTRIBUTING.md (hunk 2 above)
Comment (spacefrogg) [reply CONTRIBUTING.md:17]: I will rephrase this part. It was not meant to *require* users to use Nix.

File: CITATION.cff (hunk 1 above)
Comment (spacefrogg) [reply CITATION.cff:1]: We can, of course, remove it. What it would give you, though, is connect this repository with the scientific work it comes from. It provides sort of a back-link to the original paper. Your call.

**Comment by spacefrogg** [comment]
The current issue with this PR is as follows: Dune is very strict with regards to its inputs and outputs and producing files as a side-effect of dune rules. The Makefile made use of the looseness of make's understanding. What would help the most, would be, if `cuttlec` would provide a command that could print out the complete set of dune rules available for a circuit. For instance, some produce `.cc` files, others do not, some produce Verilog files, some do not etc. Dune does not handle this case very well, it expects to know all valid targets in advance. @cpitclaudel is it conceivable to work towards that? My OCaml Fu is very limited.

File: CITATION.cff (hunk 1 above)
Comment (cpitclaudel) [reply CITATION.cff:1]: I'd remove it (especially since the authors are wrong right now).

File: CONTRIBUTING.md (hunk 2 above)
Comment (cpitclaudel) [reply CONTRIBUTING.md:17]: Thanks!

File: README.rst [hunk 20]
```diff
@@ -78,7 +77,10 @@ Our compiler (``cuttlec``) supports multiple targets:
 - ``makefile`` (an auto-generated Makefile including convenient targets to debug, profile, trace, or visualize the outputs of your design)
 - ``dot`` (a basic representation of the RTL generated from your design)
 
-For quick experimentation, you can just drop your files in ``examples/`` or ``tests/`` and run ``make examples/_objects/<your-file.v>/``.
+For quick experimentation, you can just drop your files in ``examples/`` and run:
+
+- ``dune build @examples/genrules`` (only needs to be done once for every new file) followed by
+- ``dune build @examples/<your-file.v>.d/runtest``.
```
Comment (cpitclaudel) [inline README.rst:83]: Can we make that target also run the makefile, to match the previous behavior?

File: coq/Testing.v (hunk 8 above)
Comment (cpitclaudel) [reply coq/Testing.v:2]: I will upload the existing tutorials in rendered form somewhere and link them from the readme

File: examples/dune.inc (hunk 16 above)
Comment (cpitclaudel) [reply examples/dune.inc:1]: Understood, thanks!

File: ignored_paths.nix (hunk 18 above)
Comment (cpitclaudel) [reply ignored_paths.nix:1]: Thanks!

File: ocaml/backends/cpp.ml (hunk 19 above)
Comment (cpitclaudel) [reply ocaml/backends/cpp.ml:1648]: I see your point. My concern is this: it's a critical part of cuttlec that the output should be readable. When I built it I decided not to bother with pretty printing directly in cuttlec, because we could do that with an external tool; but the user is never supposed to see the unformatted code generated by cuttlec.  I forget whether CompilationError is the error that Common.command returns if the binary is missing. If not, we could catch that case too and print a warning, as a compromise?

**Comment by cpitclaudel** [comment]
Thanks @spacefrogg . This may be possible! This would be to replace the makefiles generated by cuttlec with dune, right?

**Comment by maxkurze1** [comment]
Hey, I implemented all the requested changes, and I am going to push them today. The current status is that I took a step back and used a top-level Makefile again. The reason behind that is that dune in not flexible enough to express the workflow of blindly copying the *.etc folders and then executing the Makefile. (Because dune wants all dependencies and targets to be known --- and in this case it knows neither (assuming that we don't generate a list of all files in *.etc into the `dune.inc`, else it might be possible))

**Comment by maxkurze1** [comment]
In favor of #25 this PR may be closed now. @cpitclaudel

**Comment by maxkurze1** [comment]
Please close this PR
@cpitclaudel
